US08809539B2
A solution of 2-fluorobiphenyl-4-carbonitrile (1.97 g, 0.01 mol), hydroxylamine hydrochloride (2.09 g, 0.03 mol) and sodium hydrogen carbonate (4.2 g, 0.05 mol) in methanol (50 mL) is heated to reflux for 7 hrs. The reaction mixture is then cooled to room temperature and filtered. The solid is washed with methanol (20 mL). The combined methanol solution is concentrated to dryness to get 2-fluoro-N-hydroxybiphenyl-4-carboxamidine which is used as such for the next step without further purification.

reactant | 2-fluorobiphenyl-4-carbonitrile | 0.01 mol, 1.97 g | FC1=C(C=CC(=C1)C#N)C1=CC=CC=C1 | C13H8FN
reactant | hydroxylamine hydrochloride | 0.03 mol, 2.09 g | Cl.NO
reactant | sodium hydrogen carbonate | 0.05 mol, 4.2 g | C(O)([O-])=O.[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-fluoro-N-hydroxybiphenyl-4-carboxamidine | FC1=C(C=CC(=C1)C(=N)NO)C1=CC=CC=C1 | C13H11FN2O
